US05204364
A solution of 3,4-dihydro-3(1H-imidazol-1-ylmethyl)-4-hydroxy-2H-1-benzopyran-6-carboxylic acid (3.0 g) in glacial acetic acid (60 ml) and concentrated sulfuric acid (30 ml) is heated at 80° C. for 3 hours. After cooling, the reaction mixture is poured into crushed ice, neutralized with ammonium hydroxide and extracted with methylene chloride. The organic layer is dried over sodium sulfate and evaporated to dryness. The resulting residue is treated with ethyl ether to give 1.5 g of 3-(1H-imidazol-1-ylmethyl)-2H-1-benzopyran-6-carboxylic acid, m.p. 258°-259°.

reactant | 3,4-dihydro-3(1H-imidazol-1-ylmethyl)-4-hydroxy-2H-1-benzopyran-6-carboxylic acid | 3.0 g | N1(C=NC=C1)CC1COC2=C(C1O)C=C(C=C2)C(=O)O | C14H14N2O4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(1H-imidazol-1-ylmethyl)-2H-1-benzopyran-6-carboxylic acid | 1.5 g | N1(C=NC=C1)CC=1COC2=C(C1)C=C(C=C2)C(=O)O | C14H12N2O3
